US05366987
(a) 5-Benzyl-1-dodecyl-1H-tetrazole
(±)-1-Dodecyl-α-phenyl-1H-tetrazole-5-acetic acid, ethyl ester, i.e., the compound of Example 13(c) (14 g; 0.034 mmoles) was dissolved in absolute ethanol (175 mL) and treated with sodium hydroxide pellets (2.7 g; 0.069 mmoles). The solution was stirred for 30 minutes forming a gelatinous precipitate. The solid was removed by filtration, dissolved in water, and then acidified to a pH of 1.0 using concentrated HCl. The precipitate was collected by filtration and washed with water. Yield: 8.5 g (76%), mp 50°-51° C.

reactant | (±)-1-Dodecyl-α-phenyl-1H-tetrazole-5-acetic acid, ethyl ester | C(CCCCCCCCCCC)N1N=NN=C1C(C(=O)OCC)C1=CC=CC=C1 | C23H36N4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 175 mL | C(C)O | C2H6O
product | 5-Benzyl-1-dodecyl-1H-tetrazole | C(C1=CC=CC=C1)C1=NN=NN1CCCCCCCCCCCC | C20H32N4
